US08222263B2
To a stirred suspension of 4-(4-phenylquinazolin-2-ylamino)benzoic acid (1.19 g, 3.49 mmol), prepared as described in Example 10, in dichloromethane (50 mL) was added a catalytic amount of dimethylformamide (100 μL) and thionyl chloride (1.50 mL, 20.6 mmol), and the resulting mixture was stirred at rt overnight. The solid was filtered, washed with hexanes, and dried under reduced pressure (high vacuum) to give the product (4-(4-phenylquinazolin-2-ylamino)benzoyl chloride) as a yellow solid (1.21 g, 97%). This material was then added portionwise to a solution of commercially available 3-amino-4-methylbenzyl alcohol (600 mg, 4.37 mmol), and triethylamine (1.0 mL, 7.2 mmol) in dichloromethane (50 mL) that had been cooled to 0° C. in an ice bath. The mixture was allowed to warm to rt overnight, then the solid was collected by filtration, washed with saturated sodium bicarbonate and water and dried under reduced pressure to give N-(5-hydroxymethyl-2-methylphenyl)-4-(4-phenylquinazolin-2-ylamino)benzamide as a pure yellow solid (1.33 g, 86%).

reactant | 4-(4-phenylquinazolin-2-ylamino)benzoic acid | 3.49 mmol, 1.19 g | C1(=CC=CC=C1)C1=NC(=NC2=CC=CC=C12)NC1=CC=C(C(=O)O)C=C1 | C21H15N3O2
reactant | dimethylformamide | 100 μL | CN(C=O)C | C3H7NO
reactant | thionyl chloride | 20.6 mmol, 1.50 mL | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 4-(4-phenylquinazolin-2-ylamino)benzoyl chloride | C1(=CC=CC=C1)C1=NC(=NC2=CC=CC=C12)NC1=CC=C(C(=O)Cl)C=C1 | C21H14ClN3O
